US06358980B1
1-(4-Methoxybenzoyl)-4-(4-but-2-ynyloxybenzenesulfonyl)piperidine-4-carboxylic acid methyl ester
To a solution of 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester (260 mg, 0.77 mmol) in chloroform (7 ml) was added triethylamine (311 mg, 3.08 mmol), 4-methoxybenzoyl chloride (158 mg, 0.92 mmol) followed by a catalytic amount of dimethylaminopyridine. The resulting mixture was stirred for 15 hours at room temperature, quenched with water and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 280 mg (75%) of the product as a solid. HR-MS: m/z Calculated for C25H27NO7S 486.1581; Found 486.1576.

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester | 0.77 mmol, 260 mg | COC(=O)C1(CCNCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C17H21NO5S
reactant | triethylamine | 3.08 mmol, 311 mg | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzoyl chloride | 0.92 mmol, 158 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Methoxybenzoyl)-4-(4-but-2-ynyloxybenzenesulfonyl)piperidine-4-carboxylic acid methyl ester | 280 mg, 75% | COC(=O)C1(CCN(CC1)C(C1=CC=C(C=C1)OC)=O)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H27NO7S
